US08604062B2
Step b) 3-(4-Fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester
To a suspension of 4-fluoro-benzaldehyde oxime (1.39 g, 10.0 mmol) in DMF (10 mL) was added portionwise within 5 minutes at 15 to 20° C. N-chlorosuccinimide (1.36 g, 10.0 mmol) and the resulting mixture was stirred at room temperature for 90 minutes. The yellow solution (containing N-Hydroxy-4-fluoro-benzenecarboximidoyl chloride) was then treated within 2 minutes at room temperature with a solution of ethyl-3-(1-pyrrolidino)crotonate (1.89 g, 10.0 mmol) in 5 mL of DMF and the resulting solution was stirred at room temperature for 28 hours. The mixture was diluted with water (25 mL) and subsequently extracted with ethyl acetate (4×25 mL). The combined organic layers were washed with 1 M HCl (2×25 mL) and water (2×25 mL), dried over Na2SO4 and subsequently concentrated to dryness (45° C./25 mbar) to afford 2.37 g (95%) of the title compound as a brownish solid with a purity of 100% (by GC) and 97% (by HPLC).

reactant | 4-fluoro-benzaldehyde oxime | 10.0 mmol, 1.39 g | FC1=CC=C(C=NO)C=C1 | C7H6FNO
reactant | N-chlorosuccinimide | 10.0 mmol, 1.36 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-Hydroxy-4-fluoro-benzenecarboximidoyl chloride | ON=C(C1=CC=C(C=C1)F)Cl | C7H5ClFNO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 3-(4-Fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 2.37 g, 95% | C(C)OC(=O)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H12FNO3
